US06479501B2
Ethyl 2cyano-1-imino-8-azaspiro[4,5]decane-8-carboxylate hemihydrate
To a solution of ethyl 4-(3-cyanopropyl)4cyano- 1-piperidinecarboxylate (5 g) in tetrahydrofuran (75 ml) was added lithium diisopropylamide (2.5 g) at −70° C., under nitrogen, with stirring. The reaction mixture was warmed to ambient temperature over 10 min and heated at reflux for 90 min. The reaction mixture was cooled to ambient temperature, neutralized with 5% hydrochloric acid and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated in vacuo. The residue was recrystallized from chloroform/petroleum ether to afford 1.8 g (36%) of product, mp 215-216° C.

reactant | ethyl 4-(3-cyanopropyl)4cyano- 1-piperidinecarboxylate | 5 g | C(#N)CCCC1(CCN(CC1)C(=O)OCC)C#N | C13H19N3O2
reactant | lithium diisopropylamide | 2.5 g | C(C)(C)[N-]C(C)C.[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | Ethyl 2cyano-1-imino-8-azaspiro[4,5]decane-8-carboxylate hemihydrate | 1.8 g, 36% | O.C(#N)C1C(C2(CC1)CCN(CC2)C(=O)OCC)=N.C(C)OC(=O)N2CCC1(CCC(C1=N)C#N)CC2 | InChI=1S/2C13H19N3O2.H2O/c2*1-2-18-12(17)16-7-5-13(6-8-16)4-3-10(9-14)11(13)15;/h2*10,15H,2-8H2,1H3;1H2
